US09315487B2
1-((2S,4R)-4-amino-6-(1-(2-methoxyethyl)-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone (for a preparation see Intermediate 11) (100 mg, 0.304 mmol), 2-bromo-5-chloropyridine (117 mg, 0.609 mmol), Davephos (23.97 mg, 0.061 mmol), Pd2(dba)3 (27.9 mg, 0.030 mmol) and sodium tert-butoxide (58.5 mg, 0.609 mmol) were combined in 1,4-dioxane (3 ml) and the mixture degassed over a period of 20 min before being heated at 120° C. for 25 min (microwave). The reaction mixture was partitioned between water (100 ml) and DCM (3×100 ml). The organics were combined, dried (hydrophobic frit) and evaporated under vacuum. The residual brown oil was dissolved in DMSO (2×1 ml) and purified by MDAP (HpH ×2). The solvent was evaporated under vacuum to give 1-((2S,4R)-4-((5-chloropyridin-2-yl)amino)-6-(1-(2-methoxyethyl)-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone (51 mg, 0.116 mmol, 38% yield) as a yellow glass. LCMS (formate), Rt 0.87 min, MH+ 440.

reactant | 1-((2S,4R)-4-amino-6-(1-(2-methoxyethyl)-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | N[C@@H]1C[C@@H](N(C2=CC=C(C=C12)C=1C=NN(C1)CCOC)C(C)=O)C | C18H24N4O2
reactant | 2-bromo-5-chloropyridine | 0.609 mmol, 117 mg | BrC1=NC=C(C=C1)Cl | C5H3BrClN
reactant | Davephos | 0.061 mmol, 23.97 mg | CN(C)C1=CC=CC=C1C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C26H36NP
reactant | sodium tert-butoxide | 0.609 mmol, 58.5 mg | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.030 mmol, 27.9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-((2S,4R)-4-((5-chloropyridin-2-yl)amino)-6-(1-(2-methoxyethyl)-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.116 mmol, 51 mg, 38% yield | ClC=1C=CC(=NC1)N[C@@H]1C[C@@H](N(C2=CC=C(C=C12)C=1C=NN(C1)CCOC)C(C)=O)C | C23H26ClN5O2
